US04559403
A solution of 23.3 g of 2-(3,4-dimethoxyphenyl)-3-{{[(3,4-dimethoxyphenyl)methyl]carbonyl}amino}propanoic acid and 15.5 ml of concentrated sulfuric acid in 300 ml of methanol was refluxed for 6 hours and evaporated to dryness. The residue was partitioned between ethyl acetate and dilute sodium bicarbonate solution and the organic layer was dried and evaporated to give 15.5 g of crude 2-(3,4-dimethoxyphenyl)-3-{{[(3,4-dimethoxyphenyl)methyl]carbonyl}amino}propanoic acid methyl ester. Crystallization from ethyl acetate provided the analytical sample, mp 92°-93°.

reactant | 2-(3,4-dimethoxyphenyl)-3-{{[(3,4-dimethoxyphenyl)methyl]carbonyl}amino}propanoic acid | 23.3 g | COC=1C=C(C=CC1OC)C(C(=O)O)CNC(=O)CC1=CC(=C(C=C1)OC)OC | C21H25NO7
reactant | sulfuric acid | 15.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 300 ml | CO | CH4O
product | 2-(3,4-dimethoxyphenyl)-3-{{[(3,4-dimethoxyphenyl)methyl]carbonyl}amino}propanoic acid methyl ester | 15.5 g | COC(C(CNC(=O)CC1=CC(=C(C=C1)OC)OC)C1=CC(=C(C=C1)OC)OC)=O | C22H27NO7
